US05498630
2-[(1,1-Dimethylethyl)sulfonyl]-N-ethyl-6-fluorobenzamide
A 0° C. solution of N-ethyl 2-fluoro-6-(1,1-dimethylethylthio)benzamide, described in Example 194, (0.15 g, 0.59 mmol) in methanol (5 mL) was combined with a 0° C. solution of OXONE® (1.08 g, 1.76 mmol) in water (5 mL). This mixture was stirred overnight, then was poured into 25% aq sodium metabisulfite (100 mL) and extracted with ether (3×100 mL). The combined organics were washed with brine followed with water, then was dried (MgSO4) and concentrated to give the title compound as a clear oil.

reactant | N-ethyl 2-fluoro-6-(1,1-dimethylethylthio)benzamide | C(C)NC(C1=C(C=CC=C1SC(C)(C)C)F)=O | C13H18FNOS
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | sodium metabisulfite | 100 mL | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | 5 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 2-[(1,1-Dimethylethyl)sulfonyl]-N-ethyl-6-fluorobenzamide | CC(C)(C)S(=O)(=O)C1=C(C(=O)NCC)C(=CC=C1)F | C13H18FNO3S
